* C:\users\adampi\Desktop\Programming\Purdue-Milesotnes-Notes\Smart_Healthcare_Milestones\Week_2_Notes\inverting_op_amp.asc
V1 0 -5V 5
V2 5V 0 5
R1 N001 Vin 10k
R2 Vout N001 400k
XU1 0 N001 5V -5V Vout LTC1150
V_in Vin 0 SINE(0 10m 1)
.tran 5
.lib LTC.lib
.backanno
.end
